US05681954
1-(3-(4,5-Dimethoxy-2-(1-pyrrolyl)phenyl)-1-oxopropyl)-4-(2-methoxyphenyl)piperazine
In 20 ml of tetrahydrofuran was dissolved 1.20 g of N,N-carbonyldiimidazole, and a solution of 2.0 g of ethyl 3-(4,5-dimethoxy-2-(1-pyrrolyl)phenyl)propionate in 40 ml of tetrahydrofuran was added to the solution at room temperature while stirring. The stirring was continued at that temperature for additional 1 hour, 2.98 g of 1-(2-methoxyphenyl)piperazine was added thereto, followed by stirring at 40° to 60° C. for 6 hours. The solvent was removed under reduced pressure, and the residue was purified by silica gel colunun chromatography (chloroform-methanol) to yield 1.9 g of a colorless oily substance. Recrystallization from ethanol gave the title compound as a colorless crystal.

reactant | N,N-carbonyldiimidazole | 1.20 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ethyl 3-(4,5-dimethoxy-2-(1-pyrrolyl)phenyl)propionate | 2.0 g | COC1=CC(=C(C=C1OC)CCC(=O)OCC)N1C=CC=C1 | C17H21NO4
reactant | 1-(2-methoxyphenyl)piperazine | 2.98 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-(3-(4,5-Dimethoxy-2-(1-pyrrolyl)phenyl)-1-oxopropyl)-4-(2-methoxyphenyl)piperazine | COC1=CC(=C(C=C1OC)CCC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)N1C=CC=C1 | C26H31N3O4
